US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[3-phenyl-4-(4-pyrimidin-2-yl-piperazin-1-yl)-piperidin-1-yl]-methanone
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone (300 mg, 0.62 mmol) and 2-chloropyrimidine (71 mg, 0.68) were stirred at 100° C. overnight. The reaction mixture was taken up in 1 mL methylene chloride and chromatographed on silica gel with methylen chloride/methanol/triethyl amine 90:10:1. The desired product (181 mg, 47%) was a light yellow solid, MS: m/e=564.3 (M+H+).

reactant | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone | 0.62 mmol, 300 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCNCC1)C1=CC=CC=C1)(F)F | C24H25F6N3O
reactant | 2-chloropyrimidine | 71 mg | ClC1=NC=CC=N1 | C4H3ClN2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[3-phenyl-4-(4-pyrimidin-2-yl-piperazin-1-yl)-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCN(CC1)C1=NC=CC=N1)C1=CC=CC=C1)(F)F | C28H27F6N5O
